US09382225B2
Transfer Hydrogenolysis of 1-Methoxy-1-phenylethane
Pd/C (5 mol %) is weighed into a reaction flask. A solvent mixture consisting of ethanol and water (4:1) and ammonium formate (30 mol %) is added, the reaction flask is capped with a rubber septa and the mixture is heated (80° C.) for 2 minutes. Formic acid (3 equivalents) and then benzyl alcohol are added by syringe. The reaction is run for 20 minutes and the reaction is quenched with brine. The product is extracted by DCM and the organic phase is dried by Na2SO4. The product ethylbenzene was analyzed by 1H NMR and produced in 60% yield.

reactant | ethanol | C(C)O | C2H6O
reactant | ammonium formate | C(=O)[O-].[NH4+]
reactant | Formic acid | 3 equivalents | C(=O)O | CH2O2
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
catalyst | Pd/C | [Pd] | Pd
solvent | water | O | H2O
product | 1-Methoxy-1-phenylethane | 60% yield | COC(C)C1=CC=CC=C1 | C9H12O
